US07572820B2
4-Chloro-1-{[5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-propyl-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazole

reactant | 4-chloro-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC | C12H11ClN2
reactant | 3-(chloromethyl)-5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C=1C(=NOC1C)C | C8H8ClN3O2
product | 4-Chloro-1-{[5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C=1C(=NOC1C)C)CCC | C20H18ClN5O2
